US08008505B2
67.3 [rac]-4-{(E)-3-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-3-cyclohexyl-propenyl}-benzoic acid
In analogy to the procedure described in example 63.3, [rac]-4-{(E)-3-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-3-cyclohexyl-propenyl}-benzoic acid methyl ester was treated with NaOH in MeOH to give the title compound.

reactant | [rac]-4-{(E)-3-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-3-cyclohexyl-propenyl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)\C=C\C(C1CCCCC1)C=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl)=O | C30H33ClN2O2
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | [rac]-4-{(E)-3-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-3-cyclohexyl-propenyl}-benzoic acid | ClC1=CC=C(C=C1)N1N=C2CCCCC2=C1C(/C=C/C1=CC=C(C(=O)O)C=C1)C1CCCCC1 | C29H31ClN2O2
